US05093353
3-(4-bromophenoxy)-1-bromopropane
The title compound was prepared and worked up by the method of Example 6 using 4-bromophenol in place of 3,4-dichlorophenol. After chromatography the title compound (3.45 g) was found to be homogeneous by thin layer chromatography (10% by volume of methylene chloride/hexane on silica gel plates).

reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
solvent | methylene chloride hexane | C(Cl)Cl.CCCCCC
product | 3-(4-bromophenoxy)-1-bromopropane | 3.45 g | BrC1=CC=C(OCCCBr)C=C1 | C9H10Br2O
